US05216167
2-Ethoxy-4-[N-(α-cyclohexylmethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoic acid
Ethyl 2-ethoxy-4-[N-(α-cyclohexyl-methyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate (1.15 g, 2.21 mmol) in ethanol (12 ml) are stirred together with 1N sodium hydroxide solution (3.3 ml) for 2 hours at 50° C. Then 1N hydrochloric acid (3.3 ml) is added and the mixture is cooled in ice. The precipitate formed is filtered off, washed with a little ice cold ethanol and dried in vacuo at 100° C.

reactant | Ethyl 2-ethoxy-4-[N-(α-cyclohexyl-methyl-2-piperidino-benzyl)-aminocarbonylmethyl]-benzoate | 2.21 mmol, 1.15 g | C(C)OC1=C(C(=O)OCC)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)(C1CCCCC1)C | C32H44N2O4
reactant | sodium hydroxide | 1N, 3.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 3.3 ml | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 2-Ethoxy-4-[N-(α-cyclohexylmethyl-2-piperidinobenzyl)-aminocarbonylmethyl]-benzoic acid | C(C)OC1=C(C(=O)O)C=CC(=C1)CC(=O)NC(C1=C(C=CC=C1)N1CCCCC1)CC1CCCCC1 | C30H40N2O4
